US06417213B2
[(2-Diphenylmethyl-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic acid
Using ethyl [(2-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate and diphenylthioacetamide, the procedure of Example 52 was otherwise repeated to synthesize the title compound. Yield 31%.

reactant | ethyl [(2-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate | BrC1=C(C=2CCCC(C2C=C1)=O)OCC(=O)OCC | C14H15BrO4
reactant | diphenylthioacetamide | C1(=CC=CC=C1)C(C(=S)N)C1=CC=CC=C1 | C14H13NS
product | [(2-Diphenylmethyl-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic acid | Yield 31% | C1(=CC=CC=C1)C(C=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C26H21NO3S
